plaintext
* NMOS Transistors
M1 Drain1 Gate1 Source1 Source1 NMOS
M2 Drain2 Gate2 Source2 Source2 NMOS
M3 Drain3 Gate3 Source3 Source3 NMOS
M4 Drain4 Gate4 Source4 Source4 NMOS

* Voltage Sources
V1 1 3 DC V1
V2 2 3 DC V2
V+ 5 0 DC 5V
V- 7 0 DC -5V

* Current Source
I_Q 4 7 DC 0.5mA

* Resistors
R1 5 4 R
R2 2 5 R
RD 5 6 RD
RS1 2 4 RS1
RS2 8 7 RS2

* Connections
M1 4 1 3 Drain1
M2 4 1 3 Gate2
M3 6 2 7 Source3
M4 8 1 3 Source4

.END