plaintext
* SPICE Netlist
M1 5 2 4 4 NMOS W=1u L=1u
Rif 2 2 1k
Rs 4 3 100
Rof 5 4 1k
VDD 5 0 DC 5V
Vfb 3 0 DC 0V

* Connections
* Node 1 -> Connected to source of M1 and Rs
* Node 2 -> Connected to gate of M1 and Rif
* Node 3 -> Connected to ground and Rs
* Node 4 -> Connected to drain of M1 and Rof
* Node 5 -> Connected to VDD and Rof