* NMOS Transistor: M1
M1 3 9 2 2 NMOS

* NMOS Transistor: M2
M2 2 5 2 2 NMOS

* PMOS Transistor: M3
M3 4 8 2 5 PMOS

* Current Source: Is1
I1 2 3 DC 1mA

* Current Source: Is2
I2 2 5 DC 2mA

* Voltage Source: V+
V1 4 2 DC 12V

* Voltage Source: vi
Vin 9 2 DC 0V

* Resistor: Rs
R1 9 3 1k

* Resistor: RD
RD 4 8 40k

* Resistor: R1
R2 5 6 10k

* Resistor: R2
R3 5 7 40k

* Resistor: RL
RL 7 2 4k