spice
* SPICE Netlist for the given schematic
V1 6 5 DC 12V
I1 4 3 DC 1A
I2 5 3 DC 1A

R1 3 5 8k

Q1 4 6 5 PNP
Q6 4 7 3 NPN
Q7 2 3 5 NPN

D1 6 4 D
D2 5 2 D

.MODEL D D
.MODEL NPN NPN
.MODEL PNP PNP

.END