spice
* SPICE Netlist

M1 5 6 8 8 NMOS
M2 3 4 8 8 NMOS
Q1 7 2 2 NPN
Q2 4 2 7 NPN
Q3 8 5 2 PNP
IQ 5 8 DC

* Voltage Sources
V1 6 0 DC V1
V2 3 0 DC V2
VPLUS 5 0 DC V+
VMINUS 2 0 DC V-

.end