plaintext
* Inverting Amplifier Circuit

* Components
R1 2 0  R1_value   * Resistor R1
RF 2 3  RF_value   * Resistor RF
CF 2 3  CF_value   * Capacitor CF

* Voltage Source
Vin 1 2 DC Vin_value  * Input Voltage Source

* Op-Amp (Ideal)
* Note: Ideal op-amps are often represented with separate subcircuit definitions
* Here, we use a simplified notation
E1 3 0 2 0 999K  * Voltage-controlled voltage source representing ideal op-amp

* Ground
V0 0 GND DC 0  * Ground reference

.END