* SPICE Netlist
* Components
R1 1 2  R1_value
R2 2 3  R2_value
R3 3 4  R3_value
R4 vi 1 R4_value
R5 3 4  R5_value
C1 2 5  C1_value
C2 3 3  C2_value

* Op-Amp Definitions (Assumed ideal modeling with high gain)
XU1 1 2 2 opamp
XU2 0 3 3 opamp
XU3 0 4 4 opamp

* Voltage Source
Vi vi 0 DC Vi_value

* General Settings
.model opamp opamp(A=1e6)

.end