* SPICE Netlist for the given schematic

V1 1 0 DC 1 * Input voltage source
R1 1 4 1k * Resistor R1
C1 4 3 1u * Capacitor C1
R2 5 3 10k * Resistor R2
C2 2 3 0.1u * Capacitor C2

* Op-amp - using an ideal model
XOPAMP 3 2 3 OPAMP

* Generic op-amp model
.subckt OPAMP noninv inv out
VN 6 0 DC 1
RM 6 5 10Meg
CM 5 0 1p
G1 7 0 5 4 1e-3
E1 4 0 8 0 1e6
Rout 8 7 10
Cout 8 0 1u
R1 4 8 200
.ends

* End of Netlist