plaintext
* SPICE Netlist for the Given Circuit

V1 6 0 DC 20

R1 5 0 10k
R2 2 6 5k
RL 3 0 1k ; Assuming a value for illustration

D1 5 2 DZ
.model DZ D (IS=1n BV=5)

Q1 2 4 3 QMODEL
.model QMODEL NPN

* Operational Amplifier
* Assume ideal characteristics if necessary.
E1 2 0 5 2 1e6

* Analysis Commands
*.OP
*.END