spice
* SPICE Netlist for the given circuit
* Transistors
M1 out 2 VDD VDD PMOS W=1 L=1
M2 out A 3 0 NMOS W=8 L=1
M3 3 B 4 0 NMOS W=8 L=1
M4 out C 4 0 NMOS W=4 L=1

* Voltage Source
V1 VDD 0 DC 5

* Nets:
* 1: VDD
* 2: gate terminals of ML
* 3: internal net between M2 and M4
* 4: ground (GND)