* PMOS Transistors
MPA 7 10 8 8 PMOS
MPB 2 7 8 8 PMOS
MP'A 2 5 8 8 PMOS

* NMOS Transistors
MNA 5 3 6 6 NMOS
MNB 3 3 0 0 NMOS
MN'B 2 6 0 0 NMOS

* Voltage Source
VDD 8 0 DC VDD