spice
* PMOS Transistors
M1 2 1 5 5 PMOS 
M2 8 9 5 5 PMOS
M3 4 6 5 5 PMOS
M4 12 11 5 5 PMOS
M5 5 7 5 5 PMOS
M6 10 3 5 5 PMOS

* NMOS Transistors
M7 5 5 7 3 NMOS
M8 9 9 11 3 NMOS
M9 6 6 9 3 NMOS
M10 12 12 9 3 NMOS
M11 7 7 10 3 NMOS
M12 3 3 12 3 NMOS

* Voltage Sources
VDD 5 0 DC 5
VGND 3 0 DC 0

* .MODEL statement for MOSFETs
.model PMOS PMOS
.model NMOS NMOS

.end