* Circuit Description
   .include my_model.lib

   * PMOS Transistor M_P
   M1 3 5 4 4 PMOS

   * NMOS Transistor M_N
   M2 9 5 2 2 NMOS

   * BJT Q1
   Q1 4 3 9 QMODEL

   * BJT Q2
   Q2 9 2 8 QMODEL

   * Voltage Source
   V1 4 7 DC VDD

   * Load
   V2 10 0 VIN

   .model PMOS PMOS
   .model NMOS NMOS
   .model QMODEL NPN

   .end