spice
* Example SPICE Netlist
V1 3 0 DC Vin
V2 2 0 DC Vdc
V3 2 0 DC Vbias

RS 3 3 1k       ; Assign a suitable resistance value
R1 2 2 1k       ; Assign a suitable resistance value
R2 2 0 1k       ; Assign a suitable resistance value

D1 3 2 D        ; D is the diode model name

.model D D(Is=1e-14) ; Example diode model

.end